US07384950B2
a) Diethyl 2-((isopropyl)amino)thiophene-3,4-dicarboxylate
Ethoxycarbonylmethylene triphenyl phosphorane (33.8 g) in dry THF (200 ml) was treated with isopropyl isothiocyanate (10.1 g) at 65° C. for 16 h under nitrogen. The mixture was cooled to −78° C. and ethyl bromo-pyruvate (19.5 g) was added. The reaction was allowed to warm slowly to room temperature. After 24 h at room temperature more ethyl bromo-pyruvate (3.17 g) was added and the mixture was stirred at room temperature for 16 h. The reaction was poured into water (1.5 L) and extracted into ether. Drying and evaporation gave an oil which was chromatographed (SiO2/5:1 isohexane-ethyl acetate) to afford the subtitle compound (21.2 g). δ 1HCDCl3 1.23-1.43 (12H, m), 3.46 (1H, m), 4.2-4.35 (4H, m), 6.50 (1H, s), 7.52 (1H, br.d)

reactant | Ethoxycarbonylmethylene triphenyl phosphorane | 33.8 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | isopropyl isothiocyanate | 10.1 g | C(C)(C)N=C=S | C4H7NS
reactant | ethyl bromo-pyruvate | 19.5 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ethyl bromo-pyruvate | 3.17 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | water | 1.5 L | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Diethyl 2-((isopropyl)amino)thiophene-3,4-dicarboxylate | 21.2 g | C(C)(C)NC=1SC=C(C1C(=O)OCC)C(=O)OCC | C13H19NO4S
